* eeschema netlist version 1.1 (spice format) creation date: monday 17 december 2012 11:32:43 am ist

* Printing option vprint1
r4  5 2 0.1
r1  4 0 0.2
r2  2 4 0.1
r3  3 0 0.2
* h1
i1  4 0 1
Vh1 2 3 0
h1 5 0 Vh1 2

.op

* Control Statements 
.control
run
print v(5)
.endc
.end
